US07935725B2
(S,S)-5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid amide
To a stirred suspension of (S,S)-2-[4-(2,5-diaza-bicyclo[2.2.1]hept-2-ylmethyl)-phenoxy]-benzothiazole hydrochloride (2.8 g, 6.8 mmol) and Et3N (9.1 mL, 68.5 mmol) in CH2Cl2 (50 mL) was added trimethylsilylisocyanate (3.8 mL, 27.4 mmol), and the resulting solution was stirred at rt for 1.5 h. The solution was then partitioned between CH2Cl2 (500 mL) and satd. aq. NaHCO3 (80 mL). The organic layer was separated, dried (Na2SO4), filtered and concentrated. Purification by silica gel flash chromatography (5% to 10% CH3OH in CH2Cl2) afforded the title compound as a white solid (2.2 g, 85%).

reactant | (S,S)-2-[4-(2,5-diaza-bicyclo[2.2.1]hept-2-ylmethyl)-phenoxy]-benzothiazole hydrochloride | 6.8 mmol, 2.8 g | Cl.[C@@H]12N(C[C@@H](NC1)C2)CC2=CC=C(OC=1SC3=C(N1)C=CC=C3)C=C2
reactant | Et3N | 68.5 mmol, 9.1 mL | CCN(CC)CC | C6H15N
reactant | trimethylsilylisocyanate | 27.4 mmol, 3.8 mL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (S,S)-5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid amide | 2.2 g, 85% | S1C(=NC2=C1C=CC=C2)OC2=CC=C(CN1[C@@H]3CN([C@H](C1)C3)C(=O)N)C=C2 | C20H20N4O2S
